US08791123B2
Step C: Preparation of (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)-N-(1-methylcyclopropyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
To a DMF (0.6 mL) solution of (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation I, 10.5 mg, 0.0321 mmol) and HATU (14.6 mg, 0.0385 mmol) was added 1-methylcyclopropanamine hydrochloride (4.14 mg, 0.0385 mmol) and DIEA (0.0168 mL, 0.0962 mmol). After stirring for 10 minutes, the reaction mixture was directly purified by reverse-phase chromatography (5 to 50% acetonitrile/water) to yield the final product as white solid (10 mg, 82%). LCMS (apci) m/z=381.1 (M+H).

reactant | (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.0321 mmol, 10.5 mg | FC=1C=C(C=NC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C16H14FN5O2
reactant | HATU | 0.0385 mmol, 14.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-methylcyclopropanamine hydrochloride | 0.0385 mmol, 4.14 mg | Cl.CC1(CC1)N
reactant | DIEA | 0.0962 mmol, 0.0168 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)-N-(1-methylcyclopropyl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 10 mg, 82% | FC=1C=C(C=NC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)NC2(CC2)C | C20H21FN6O
